US07777042B2
(S)-(1-(3-(Fluoro)-benzenesulfonyl)-piperidine-2-carboxylic acid
A mixture of (S)-1-(3-fluoro-benzenesulfonyl)-piperidine-2-carboxylic acid benzyl ester (6.51 g, 17.3 mmol), ethanol (200 mL) and 10% Pd on carbon (1.83 g, 1.70 mmol) was hydrogenated at 30 psi for 3 h. The suspension was then filtered through celite and washed with ethyl acetate. The filtrate was concentrated under reduced pressure. The resulting oil was chromatographed on silica gel (dichloromethane/n-heptane, 9/1) to afford 4.10 g (82.9%) of the title compound.

reactant | (S)-1-(3-fluoro-benzenesulfonyl)-piperidine-2-carboxylic acid benzyl ester | 17.3 mmol, 6.51 g | C(C1=CC=CC=C1)OC(=O)[C@H]1N(CCCC1)S(=O)(=O)C1=CC(=CC=C1)F | C19H20FNO4S
catalyst | Pd on carbon | 1.70 mmol, 1.83 g | [Pd] | Pd
solvent | ethanol | 200 mL | C(C)O | C2H6O
product | 1-(3-(Fluoro)-benzenesulfonyl)-piperidine-2-carboxylic acid | 4.10 g, 82.9% | FC=1C=C(C=CC1)S(=O)(=O)N1C(CCCC1)C(=O)O | C12H14FNO4S
